US08912330B2
1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridine
The entitled compound was prepared from 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine and tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate according to the procedure described in example 4. The resulting compound (BOC protected compound) was dissolved in methanol and was treated with HCl (4.0M solution in dioxane,) at room temperature for 30 min. Solvents were evaporated and the residue was dissolved in DCM and treated with Na2CO3/NaHCO3 and drops of water. The solution was then purified to give the entitled compound.

reactant | 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine | BrC=1C=C2C(=NC1)C=CN2OC(C)C2=C(C(=CC=C2Cl)F)Cl | C15H10BrCl2FN2O
reactant | tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | HCl | 4.0M | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridine | ClC1=C(C(=CC=C1F)Cl)C(C)ON1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCNCC2 | C23H22Cl2FN5O
